US04735959
Ethyl 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzoate
Prepared analogously to Example 64 from 1-(2-piperidinophenyl)-1-butanol and ethyl 4-cyanomethyl-benzoate with concentrated sulfuric acid in o-dichlorobenzene at ambient temperature.

reactant | 1-(2-piperidinophenyl)-1-butanol | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)O | C15H23NO
reactant | ethyl 4-cyanomethyl-benzoate | C(#N)CC1=CC=C(C(=O)OCC)C=C1 | C11H11NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzoate | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C(=O)OCC)C=C1)C(=O)N | C26H34N2O3
